US07285558B2
Preparation of 1-benzothiophene-3-carbaldehyde N-(3-isobutyl-1-methyl-2,6-dioxo-1,2,3,6-tetrahydro-4-pyrimidinyl)hydrazone
6-Hydrazino-1-isobutyl-3-methyl-2,4(1H,3H)-pyrimidinedione (1.2 g, 5.65 mmol) was dissolved in methanol (100 mL). To the yellow/brown solution was added thianaphthene-3-carboxaldehyde (917 mg, 5.65 mmol). A brown precipitate began to form after about 20 min. The mixture was stirred at room temperature for 3 h under nitrogen gas. HPLC showed complete formation of hydrazone (Rt=1.87 min, Kromasil, C8) The solvent was removed in vacuo and the brown slurry was pumped down to reveal a brown/yellow powder. Yield=1.85 g (92%), TLC, Rf=0.14 (CHCl3/MeOH); Rt:1.87 min. MS:357 (M+H)

reactant | 6-Hydrazino-1-isobutyl-3-methyl-2,4(1H,3H)-pyrimidinedione | 5.65 mmol, 1.2 g | N(N)C1=CC(N(C(N1CC(C)C)=O)C)=O | C9H16N4O2
reactant | thianaphthene-3-carboxaldehyde | 5.65 mmol, 917 mg | C1=CC=C2C(=C1)C(=CS2)C=O | C9H6OS
solvent | methanol | 100 mL | CO | CH4O
product | 1-benzothiophene-3-carbaldehyde N-(3-isobutyl-1-methyl-2,6-dioxo-1,2,3,6-tetrahydro-4-pyrimidinyl)hydrazone | C(C(C)C)N1C(N(C(C=C1NN=CC1=CSC2=C1C=CC=C2)=O)C)=O | C18H20N4O2S
